US09233985B2
An ice-cooled (3° C.) stirred solution of N-boc-glycine, allyl ester (6.46 g, 30 mmol) in anhydrous tetrahydrofuran (60 mL) under nitrogen was treated with 1N lithium bis(trimethylsilylamide)/tetrahydrofuran (33 mL, 33 mmol) at a rate to keep pot temperature below 10° C., then stirred at 3° C. for 15 min and cooled (−40° C.). A solution of allyl acrylate (4.45 mL, 35 mmol) in anhydrous tetrahydrofuran (25 mL) was added dropwise, and the mixture allowed to reach room temperature, stirred 1 h, and refluxed for 2 h. The mixture was cooled to room temperature, quenched with glacial acetic acid (2.5 mL), and concentrated. The residual oil was dissolved in methylene chloride (300 mL) and the solution washed with water and saturated sodium bicarbonate (150 mL each), dried (Na2SO4), and concentrated. The residue was dissolved in minimum methylene chloride and loaded onto a silica gel column (350 mL volume) and eluted with 55:30:15 heptane/methylene chloride/ethyl acetate to afford 3-allyl 1-tert-butyl 4-oxopyrrolidine-1,3-dicarboxylate (5.07 g, 63%) as a colorless oil. NMR (CDCl3): δ 5.85-6.00 (m, 1 H), 5.20-5.40 (m, 2 H), 4.60-4.75 (m, 2 H), 4.20 (m, 1 H), 3.95-4.10 (m, 1 H), 3.87 (d J=6.5 Hz, 1 H), 3.62 (t, J=8 Hz, 1 H), 1.48 (s, 9 H). MS (m+1): 270.4; MS (m−bu+1): 214.2.

reactant | N-boc-glycine, allyl ester | 30 mmol, 6.46 g | C(=O)(OC(C)(C)C)NCC(=O)OCC=C | C10H17NO4
reactant | lithium bis(trimethylsilylamide) tetrahydrofuran | 33 mmol, 1N, 33 mL | C[Si](C)(C)[NH-].C[Si](C)(C)[NH-].[Li+].[Li+].O1CCCC1
reactant | allyl acrylate | 35 mmol, 4.45 mL | C(C=C)(=O)OCC=C | C6H8O2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-allyl 1-tert-butyl 4-oxopyrrolidine-1,3-dicarboxylate | 5.07 g, 63% | O=C1C(CN(C1)C(=O)OC(C)(C)C)C(=O)OCC=C | C13H19NO5
